US07816522B2
(17f) 5-{(3-ethoxy-4-methoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one
After adding 230 mg of 2-hydrazinopyrimidine and 293 μl of triethylamine to a 50 ml DMF solution containing 983 mg of {2-(3-ethoxy-4-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester, the mixture was stirred at 85° C. for 10 hours under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 30 ml of a methanol:THF=1:1 mixed solvent. After adding 420 μl of acetic acid and 657 mg of sodium cyanotrihydroborate to the reaction mixture, it was stirred at room temperature for 5 hours. Ethyl acetate was added to the reaction mixture which was then filtered through a small amount of NAM silica gel, and the silica gel was washed with ethyl acetate-methanol. The filtrate was concentrated under reduced pressure, and the residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (400 mg) as a light yellow solid.

reactant | 2-hydrazinopyrimidine | 230 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 293 μl | C(C)N(CC)CC | C6H15N
reactant | {2-(3-ethoxy-4-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 983 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)OCC)SC)=O | C23H24N4O5S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-{(3-ethoxy-4-methoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | 400 mg | C(C)OC=1C=C(C=CC1OC)C(C=1NC(N(N1)C1=NC=CC=N1)=O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C25H24N8O4
